US07414049B2
a) [(S)-5-(2-Benzyloxy-ethyl)-2-oxo-1-(2,2,2-trifluoro-ethyl)-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl]-carbamic acid tert-butyl ester
In an analogous manner to that described in Example 2a), the alkylation of the [(S)-1-(2-benzyloxy-ethyl)-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl]-carbamic acid tert-butyl ester with 2,2,2-trifluoroethyl trifluoromethanesulphonate using lithium bis(trimethylsilyl)amide (1M solution in tetrahydrofurane) as the base yielded title compound as a white foam (yield 86% of theory); MS (m/e): 494 (M+H)+.

reactant | [(S)-1-(2-benzyloxy-ethyl)-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H]1C(NC2=C(N(C1)CCOCC1=CC=CC=C1)C=CC=C2)=O)=O | C23H29N3O4
reactant | 2,2,2-trifluoroethyl trifluoromethanesulphonate | FC(S(=O)(=O)OCC(F)(F)F)(F)F | C3H2F6O3S
reactant | lithium bis(trimethylsilyl)amide | 1M | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
product | [(S)-5-(2-Benzyloxy-ethyl)-2-oxo-1-(2,2,2-trifluoro-ethyl)-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl]-carbamic acid tert-butyl ester | yield 86% | C(C)(C)(C)OC(N[C@H]1CN(C2=C(N(C1=O)CC(F)(F)F)C=CC=C2)CCOCC2=CC=CC=C2)=O | C25H30F3N3O4
